US08492414B2
4-Benzyloxybenzamide
To a solution of 4-benzyloxybenzonitrile (0.61 g, 2.91 mmol) in 15 ml of tert-butanol was added fine powder of KOH (1.22 g, 21.78 mmol) and the resulting reaction mixture was refluxed for 4 h at 78° C. After the completion of the reaction (TLC monitoring), added brine solution and extracted with ethyl acetate (3×50 ml). The combined organic layer was dried over Na2SO4, filtered and concentrated under vacuum, to get the product (0.67 g) that was used as such for the next step.

reactant | 4-benzyloxybenzonitrile | 2.91 mmol, 0.61 g | C(C1=CC=CC=C1)OC1=CC=C(C#N)C=C1 | C14H11NO
reactant | KOH | 21.78 mmol, 1.22 g | [OH-].[K+]
solvent | tert-butanol | 15 ml | C(C)(C)(C)O | C4H10O
solvent | brine | [Cl-].[Na+].O
product | 4-Benzyloxybenzamide | 0.67 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)N)C=C1 | C14H13NO2
